US06140100
A 25 mL 3-necked flask equipped with a condenser, a thermometer, and a magnetic stirrer was charged with 0.20 g of ethyl 5-(((3,4-dihydro-2-methyl-4-oxo-6-quinazolinyl)methyl)methylamino)-2-thiophene-carboxylate, 6 mL of EtOH, and 6 mL of 1N aqueous NaOH. The resulting solution was stirred under nitrogen and RT for 25 min and then at 55° C. for 2 h. Analysis by tlc (SiO2, 95:5 CH2Cl2) indicated no remaining starting material and a new component at Rf =0.06. The solution was cooled to RT and subjected to rotary evaporation to remove EtOH. The remaining solution was diluted with 10 mL of water and acidified to pH=3.5 by addition of 1N aqueous HCl. A tan precipitate formed which was collected by centrifugation, washed with four cycles of aqueous suspension-centrifugation-decantation, and lyophilized to afford 0.116 g (63%) of 5-(((3,4-dihydro-2-methyl-4-oxo-6-quinazolinyl)methyl)methylamino)-2-thiophene-carboxylic acid as a white powder, m.p. 195° C. (dec).

reactant | ethyl 5-(((3,4-dihydro-2-methyl-4-oxo-6-quinazolinyl)methyl)methylamino)-2-thiophene-carboxylate | 0.20 g | CC1=NC2=CC=C(C=C2C(N1)=O)CN(C1=CC=C(S1)C(=O)OCC)C | C18H19N3O3S
reactant | EtOH | 6 mL | CCO | C2H6O
reactant | NaOH | 1N, 6 mL | [OH-].[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 5-(((3,4-dihydro-2-methyl-4-oxo-6-quinazolinyl)methyl)methylamino)-2-thiophene-carboxylic acid | 0.116 g, 63% | CC1=NC2=CC=C(C=C2C(N1)=O)CN(C1=CC=C(S1)C(=O)O)C | C16H15N3O3S
